US06861441B1
1,4-Diethoxy-2,3-naphthalenedicarboxylic anhydride (23.3 g, 81.5 mmol) and ethyl (4-aminophenyl)acetate (14.8 g, 82 mmol) were refluxed under nitrogen in acetic acid (160 ml) overnight. The mixture was cooled to room temperature and poured into water (1 L). The white solid was filtered, washed with water and dissolved in dichloromethane (800 ml). The solution was washed with water, brine and dried (MgSO4) and the solvent evaporated under vacuum to give ethyl [4-(4,9-diethoxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate as an off-white solid (33 g, 96%).

reactant | 1,4-Diethoxy-2,3-naphthalenedicarboxylic anhydride | 81.5 mmol, 23.3 g | C(C)OC1=C2C(=C(C3=CC=CC=C13)OCC)C(=O)OC2=O | C16H14O5
reactant | ethyl (4-aminophenyl)acetate | 82 mmol, 14.8 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | water | 1 L | O | H2O
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | ethyl [4-(4,9-diethoxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate | 33 g, 96% | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=CC=C(C=C1)CC(=O)OCC)=O)OCC)C=CC=C2 | C26H25NO6
